* SPICE export from PyRTL
Vdd Vdd 0 5
M1 N1 b Vdd Vdd PMOS
M2 N1 a Vdd Vdd PMOS
M4 N2 b 0 0 NMOS
M3 N1 a N2 0 NMOS
M5 tmp12044 N1 Vdd Vdd PMOS
M6 tmp12044 N1 Vdd Vdd PMOS
M8 N3 N1 0 0 NMOS
M7 tmp12044 N1 N3 0 NMOS
M9 N4 c Vdd Vdd PMOS
M10 N4 a Vdd Vdd PMOS
M12 N5 c 0 0 NMOS
M11 N4 a N5 0 NMOS
M13 tmp12047 N4 Vdd Vdd PMOS
M14 tmp12047 N4 Vdd Vdd PMOS
M16 N6 N4 0 0 NMOS
M15 tmp12047 N4 N6 0 NMOS
M17 N7 tmp12044 Vdd Vdd PMOS
M18 N7 tmp12044 Vdd Vdd PMOS
M20 N9 tmp12044 0 0 NMOS
M19 N7 tmp12044 N9 0 NMOS
M21 N8 tmp12047 Vdd Vdd PMOS
M22 N8 tmp12047 Vdd Vdd PMOS
M24 N10 tmp12047 0 0 NMOS
M23 N8 tmp12047 N10 0 NMOS
M25 tmp12046 N8 Vdd Vdd PMOS
M26 tmp12046 N7 Vdd Vdd PMOS
M28 N11 N8 0 0 NMOS
M27 tmp12046 N7 N11 0 NMOS
Vc c 0 PULSE(0 5 0 0 0 4 8)
Va a 0 PULSE(0 5 0 0 0 4 9)
M29 N12 b Vdd Vdd PMOS
M30 N12 a Vdd Vdd PMOS
M32 N15 b 0 0 NMOS
M31 N12 a N15 0 NMOS
M33 N13 N12 Vdd Vdd PMOS
M34 N13 a Vdd Vdd PMOS
M36 N16 N12 0 0 NMOS
M35 N13 a N16 0 NMOS
M37 N14 N12 Vdd Vdd PMOS
M38 N14 b Vdd Vdd PMOS
M40 N17 N12 0 0 NMOS
M39 N14 b N17 0 NMOS
M41 tmp12045 N14 Vdd Vdd PMOS
M42 tmp12045 N13 Vdd Vdd PMOS
M44 N18 N14 0 0 NMOS
M43 tmp12045 N13 N18 0 NMOS
M45 N19 c Vdd Vdd PMOS
M46 N19 b Vdd Vdd PMOS
M48 N20 c 0 0 NMOS
M47 N19 b N20 0 NMOS
M49 tmp12050 N19 Vdd Vdd PMOS
M50 tmp12050 N19 Vdd Vdd PMOS
M52 N21 N19 0 0 NMOS
M51 tmp12050 N19 N21 0 NMOS
M53 N22 tmp12046 Vdd Vdd PMOS
M54 N22 tmp12046 Vdd Vdd PMOS
M56 N24 tmp12046 0 0 NMOS
M55 N22 tmp12046 N24 0 NMOS
M57 N23 tmp12050 Vdd Vdd PMOS
M58 N23 tmp12050 Vdd Vdd PMOS
M60 N25 tmp12050 0 0 NMOS
M59 N23 tmp12050 N25 0 NMOS
M61 cout N23 Vdd Vdd PMOS
M62 cout N22 Vdd Vdd PMOS
M64 N26 N23 0 0 NMOS
M63 cout N22 N26 0 NMOS
M65 N27 c Vdd Vdd PMOS
M66 N27 tmp12045 Vdd Vdd PMOS
M68 N30 c 0 0 NMOS
M67 N27 tmp12045 N30 0 NMOS
M69 N28 N27 Vdd Vdd PMOS
M70 N28 tmp12045 Vdd Vdd PMOS
M72 N31 N27 0 0 NMOS
M71 N28 tmp12045 N31 0 NMOS
M73 N29 N27 Vdd Vdd PMOS
M74 N29 c Vdd Vdd PMOS
M76 N32 N27 0 0 NMOS
M75 N29 c N32 0 NMOS
M77 sum N29 Vdd Vdd PMOS
M78 sum N28 Vdd Vdd PMOS
M80 N33 N29 0 0 NMOS
M79 sum N28 N33 0 NMOS
Vb b 0 PULSE(0 5 0 0 0 4 9)
.model NMOS NMOS
.model PMOS PMOS
.tran 0 20 0 1ms
.backanno
.end
