* SPICE export from PyRTL
Vdd Vdd 0 5
M1 N1 b Vdd Vdd PMOS
M2 N1 a Vdd Vdd PMOS
M4 N2 b 0 0 NMOS
M3 N1 a N2 0 NMOS
M5 tmp12387 N1 Vdd Vdd PMOS
M6 tmp12387 N1 Vdd Vdd PMOS
M8 N3 N1 0 0 NMOS
M7 tmp12387 N1 N3 0 NMOS
M9 N4 c Vdd Vdd PMOS
M10 N4 a Vdd Vdd PMOS
M12 N5 c 0 0 NMOS
M11 N4 a N5 0 NMOS
M13 tmp12384 N4 Vdd Vdd PMOS
M14 tmp12384 N4 Vdd Vdd PMOS
M16 N6 N4 0 0 NMOS
M15 tmp12384 N4 N6 0 NMOS
M17 N7 b Vdd Vdd PMOS
M18 N7 a Vdd Vdd PMOS
M20 N10 b 0 0 NMOS
M19 N7 a N10 0 NMOS
M21 N8 N7 Vdd Vdd PMOS
M22 N8 a Vdd Vdd PMOS
M24 N11 N7 0 0 NMOS
M23 N8 a N11 0 NMOS
M25 N9 N7 Vdd Vdd PMOS
M26 N9 b Vdd Vdd PMOS
M28 N12 N7 0 0 NMOS
M27 N9 b N12 0 NMOS
M29 tmp12386 N9 Vdd Vdd PMOS
M30 tmp12386 N8 Vdd Vdd PMOS
M32 N13 N9 0 0 NMOS
M31 tmp12386 N8 N13 0 NMOS
M33 N14 c Vdd Vdd PMOS
M34 N14 tmp12386 Vdd Vdd PMOS
M36 N17 c 0 0 NMOS
M35 N14 tmp12386 N17 0 NMOS
M37 N15 N14 Vdd Vdd PMOS
M38 N15 tmp12386 Vdd Vdd PMOS
M40 N18 N14 0 0 NMOS
M39 N15 tmp12386 N18 0 NMOS
M41 N16 N14 Vdd Vdd PMOS
M42 N16 c Vdd Vdd PMOS
M44 N19 N14 0 0 NMOS
M43 N16 c N19 0 NMOS
M45 sum N16 Vdd Vdd PMOS
M46 sum N15 Vdd Vdd PMOS
M48 N20 N16 0 0 NMOS
M47 sum N15 N20 0 NMOS
Vc c 0 PULSE(0 5 0 0 0 3 7)
M49 N21 c Vdd Vdd PMOS
M50 N21 b Vdd Vdd PMOS
M52 N22 c 0 0 NMOS
M51 N21 b N22 0 NMOS
M53 tmp12382 N21 Vdd Vdd PMOS
M54 tmp12382 N21 Vdd Vdd PMOS
M56 N23 N21 0 0 NMOS
M55 tmp12382 N21 N23 0 NMOS
M57 N24 tmp12381 Vdd Vdd PMOS
M58 N24 tmp12381 Vdd Vdd PMOS
M60 N26 tmp12381 0 0 NMOS
M59 N24 tmp12381 N26 0 NMOS
M61 N25 tmp12382 Vdd Vdd PMOS
M62 N25 tmp12382 Vdd Vdd PMOS
M64 N27 tmp12382 0 0 NMOS
M63 N25 tmp12382 N27 0 NMOS
M65 cout N25 Vdd Vdd PMOS
M66 cout N24 Vdd Vdd PMOS
M68 N28 N25 0 0 NMOS
M67 cout N24 N28 0 NMOS
Vb b 0 PULSE(0 5 0 0 0 3 6)
M69 N29 tmp12387 Vdd Vdd PMOS
M70 N29 tmp12387 Vdd Vdd PMOS
M72 N31 tmp12387 0 0 NMOS
M71 N29 tmp12387 N31 0 NMOS
M73 N30 tmp12384 Vdd Vdd PMOS
M74 N30 tmp12384 Vdd Vdd PMOS
M76 N32 tmp12384 0 0 NMOS
M75 N30 tmp12384 N32 0 NMOS
M77 tmp12381 N30 Vdd Vdd PMOS
M78 tmp12381 N29 Vdd Vdd PMOS
M80 N33 N30 0 0 NMOS
M79 tmp12381 N29 N33 0 NMOS
Va a 0 PULSE(0 5 0 0 0 5 10)
.model NMOS NMOS
.model PMOS PMOS
.tran 0 20 0 1ms
.backanno
.end
