* SPICE export from PyRTL
Vdd Vdd 0 5
Va a 0 PULSE(0 5 0 0 0 3 7)
M1 N1 c Vdd Vdd PMOS
M2 N1 tmp12383 Vdd Vdd PMOS
M4 N4 c 0 0 NMOS
M3 N1 tmp12383 N4 0 NMOS
M5 N2 N1 Vdd Vdd PMOS
M6 N2 tmp12383 Vdd Vdd PMOS
M8 N5 N1 0 0 NMOS
M7 N2 tmp12383 N5 0 NMOS
M9 N3 N1 Vdd Vdd PMOS
M10 N3 c Vdd Vdd PMOS
M12 N6 N1 0 0 NMOS
M11 N3 c N6 0 NMOS
M13 sum N3 Vdd Vdd PMOS
M14 sum N2 Vdd Vdd PMOS
M16 N7 N3 0 0 NMOS
M15 sum N2 N7 0 NMOS
M17 N8 tmp12385 Vdd Vdd PMOS
M18 N8 tmp12385 Vdd Vdd PMOS
M20 N10 tmp12385 0 0 NMOS
M19 N8 tmp12385 N10 0 NMOS
M21 N9 tmp12382 Vdd Vdd PMOS
M22 N9 tmp12382 Vdd Vdd PMOS
M24 N11 tmp12382 0 0 NMOS
M23 N9 tmp12382 N11 0 NMOS
M25 cout N9 Vdd Vdd PMOS
M26 cout N8 Vdd Vdd PMOS
M28 N12 N9 0 0 NMOS
M27 cout N8 N12 0 NMOS
M29 N13 b Vdd Vdd PMOS
M30 N13 a Vdd Vdd PMOS
M32 N16 b 0 0 NMOS
M31 N13 a N16 0 NMOS
M33 N14 N13 Vdd Vdd PMOS
M34 N14 a Vdd Vdd PMOS
M36 N17 N13 0 0 NMOS
M35 N14 a N17 0 NMOS
M37 N15 N13 Vdd Vdd PMOS
M38 N15 b Vdd Vdd PMOS
M40 N18 N13 0 0 NMOS
M39 N15 b N18 0 NMOS
M41 tmp12383 N15 Vdd Vdd PMOS
M42 tmp12383 N14 Vdd Vdd PMOS
M44 N19 N15 0 0 NMOS
M43 tmp12383 N14 N19 0 NMOS
M45 N20 tmp12387 Vdd Vdd PMOS
M46 N20 tmp12387 Vdd Vdd PMOS
M48 N22 tmp12387 0 0 NMOS
M47 N20 tmp12387 N22 0 NMOS
M49 N21 tmp12386 Vdd Vdd PMOS
M50 N21 tmp12386 Vdd Vdd PMOS
M52 N23 tmp12386 0 0 NMOS
M51 N21 tmp12386 N23 0 NMOS
M53 tmp12385 N21 Vdd Vdd PMOS
M54 tmp12385 N20 Vdd Vdd PMOS
M56 N24 N21 0 0 NMOS
M55 tmp12385 N20 N24 0 NMOS
M57 N25 b Vdd Vdd PMOS
M58 N25 a Vdd Vdd PMOS
M60 N26 b 0 0 NMOS
M59 N25 a N26 0 NMOS
M61 tmp12387 N25 Vdd Vdd PMOS
M62 tmp12387 N25 Vdd Vdd PMOS
M64 N27 N25 0 0 NMOS
M63 tmp12387 N25 N27 0 NMOS
Vb b 0 PULSE(0 5 0 0 0 3 6)
Vc c 0 PULSE(0 5 0 0 0 5 10)
M65 N28 c Vdd Vdd PMOS
M66 N28 a Vdd Vdd PMOS
M68 N29 c 0 0 NMOS
M67 N28 a N29 0 NMOS
M69 tmp12386 N28 Vdd Vdd PMOS
M70 tmp12386 N28 Vdd Vdd PMOS
M72 N30 N28 0 0 NMOS
M71 tmp12386 N28 N30 0 NMOS
M73 N31 c Vdd Vdd PMOS
M74 N31 b Vdd Vdd PMOS
M76 N32 c 0 0 NMOS
M75 N31 b N32 0 NMOS
M77 tmp12382 N31 Vdd Vdd PMOS
M78 tmp12382 N31 Vdd Vdd PMOS
M80 N33 N31 0 0 NMOS
M79 tmp12382 N31 N33 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.tran 0 20 0 1ms
.backanno
.end
