* SPICE export from PyRTL
Vdd Vdd 0 5
Vb b 0 PULSE(0 5 0 0 0 3 7)
M1 N1 tmp12384 Vdd Vdd PMOS
M2 N1 tmp12384 Vdd Vdd PMOS
M4 N3 tmp12384 0 0 NMOS
M3 N1 tmp12384 N3 0 NMOS
M5 N2 tmp12385 Vdd Vdd PMOS
M6 N2 tmp12385 Vdd Vdd PMOS
M8 N4 tmp12385 0 0 NMOS
M7 N2 tmp12385 N4 0 NMOS
M9 cout N2 Vdd Vdd PMOS
M10 cout N1 Vdd Vdd PMOS
M12 N5 N2 0 0 NMOS
M11 cout N1 N5 0 NMOS
M13 N6 c Vdd Vdd PMOS
M14 N6 a Vdd Vdd PMOS
M16 N7 c 0 0 NMOS
M15 N6 a N7 0 NMOS
M17 tmp12381 N6 Vdd Vdd PMOS
M18 tmp12381 N6 Vdd Vdd PMOS
M20 N8 N6 0 0 NMOS
M19 tmp12381 N6 N8 0 NMOS
Va a 0 PULSE(0 5 0 0 0 3 6)
M21 N9 b Vdd Vdd PMOS
M22 N9 a Vdd Vdd PMOS
M24 N10 b 0 0 NMOS
M23 N9 a N10 0 NMOS
M25 tmp12387 N9 Vdd Vdd PMOS
M26 tmp12387 N9 Vdd Vdd PMOS
M28 N11 N9 0 0 NMOS
M27 tmp12387 N9 N11 0 NMOS
Vc c 0 PULSE(0 5 0 0 0 5 10)
M29 N12 b Vdd Vdd PMOS
M30 N12 a Vdd Vdd PMOS
M32 N15 b 0 0 NMOS
M31 N12 a N15 0 NMOS
M33 N13 N12 Vdd Vdd PMOS
M34 N13 a Vdd Vdd PMOS
M36 N16 N12 0 0 NMOS
M35 N13 a N16 0 NMOS
M37 N14 N12 Vdd Vdd PMOS
M38 N14 b Vdd Vdd PMOS
M40 N17 N12 0 0 NMOS
M39 N14 b N17 0 NMOS
M41 tmp12382 N14 Vdd Vdd PMOS
M42 tmp12382 N13 Vdd Vdd PMOS
M44 N18 N14 0 0 NMOS
M43 tmp12382 N13 N18 0 NMOS
M45 N19 c Vdd Vdd PMOS
M46 N19 b Vdd Vdd PMOS
M48 N20 c 0 0 NMOS
M47 N19 b N20 0 NMOS
M49 tmp12385 N19 Vdd Vdd PMOS
M50 tmp12385 N19 Vdd Vdd PMOS
M52 N21 N19 0 0 NMOS
M51 tmp12385 N19 N21 0 NMOS
M53 N22 tmp12387 Vdd Vdd PMOS
M54 N22 tmp12387 Vdd Vdd PMOS
M56 N24 tmp12387 0 0 NMOS
M55 N22 tmp12387 N24 0 NMOS
M57 N23 tmp12381 Vdd Vdd PMOS
M58 N23 tmp12381 Vdd Vdd PMOS
M60 N25 tmp12381 0 0 NMOS
M59 N23 tmp12381 N25 0 NMOS
M61 tmp12384 N23 Vdd Vdd PMOS
M62 tmp12384 N22 Vdd Vdd PMOS
M64 N26 N23 0 0 NMOS
M63 tmp12384 N22 N26 0 NMOS
M65 N27 c Vdd Vdd PMOS
M66 N27 tmp12382 Vdd Vdd PMOS
M68 N30 c 0 0 NMOS
M67 N27 tmp12382 N30 0 NMOS
M69 N28 N27 Vdd Vdd PMOS
M70 N28 tmp12382 Vdd Vdd PMOS
M72 N31 N27 0 0 NMOS
M71 N28 tmp12382 N31 0 NMOS
M73 N29 N27 Vdd Vdd PMOS
M74 N29 c Vdd Vdd PMOS
M76 N32 N27 0 0 NMOS
M75 N29 c N32 0 NMOS
M77 sum N29 Vdd Vdd PMOS
M78 sum N28 Vdd Vdd PMOS
M80 N33 N29 0 0 NMOS
M79 sum N28 N33 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.tran 0 20 0 1ms
.backanno
.end
