* SPICE export from PyRTL
Vdd Vdd 0 5
Vc c 0 PULSE(0 5 0 0 0 3 7)
M1 N1 b Vdd Vdd PMOS
M2 N1 a Vdd Vdd PMOS
M4 N2 b 0 0 NMOS
M3 N1 a N2 0 NMOS
M5 tmp12589 N1 Vdd Vdd PMOS
M6 tmp12589 N1 Vdd Vdd PMOS
M8 N3 N1 0 0 NMOS
M7 tmp12589 N1 N3 0 NMOS
Vb b 0 PULSE(0 5 0 0 0 3 6)
M9 N4 tmp12589 Vdd Vdd PMOS
M10 N4 tmp12589 Vdd Vdd PMOS
M12 N6 tmp12589 0 0 NMOS
M11 N4 tmp12589 N6 0 NMOS
M13 N5 tmp12593 Vdd Vdd PMOS
M14 N5 tmp12593 Vdd Vdd PMOS
M16 N7 tmp12593 0 0 NMOS
M15 N5 tmp12593 N7 0 NMOS
M17 tmp12592 N5 Vdd Vdd PMOS
M18 tmp12592 N4 Vdd Vdd PMOS
M20 N8 N5 0 0 NMOS
M19 tmp12592 N4 N8 0 NMOS
M21 N9 c Vdd Vdd PMOS
M22 N9 tmp12590 Vdd Vdd PMOS
M24 N12 c 0 0 NMOS
M23 N9 tmp12590 N12 0 NMOS
M25 N10 N9 Vdd Vdd PMOS
M26 N10 tmp12590 Vdd Vdd PMOS
M28 N13 N9 0 0 NMOS
M27 N10 tmp12590 N13 0 NMOS
M29 N11 N9 Vdd Vdd PMOS
M30 N11 c Vdd Vdd PMOS
M32 N14 N9 0 0 NMOS
M31 N11 c N14 0 NMOS
M33 sum N11 Vdd Vdd PMOS
M34 sum N10 Vdd Vdd PMOS
M36 N15 N11 0 0 NMOS
M35 sum N10 N15 0 NMOS
M37 N16 b Vdd Vdd PMOS
M38 N16 a Vdd Vdd PMOS
M40 N19 b 0 0 NMOS
M39 N16 a N19 0 NMOS
M41 N17 N16 Vdd Vdd PMOS
M42 N17 a Vdd Vdd PMOS
M44 N20 N16 0 0 NMOS
M43 N17 a N20 0 NMOS
M45 N18 N16 Vdd Vdd PMOS
M46 N18 b Vdd Vdd PMOS
M48 N21 N16 0 0 NMOS
M47 N18 b N21 0 NMOS
M49 tmp12590 N18 Vdd Vdd PMOS
M50 tmp12590 N17 Vdd Vdd PMOS
M52 N22 N18 0 0 NMOS
M51 tmp12590 N17 N22 0 NMOS
Va a 0 PULSE(0 5 0 0 0 5 10)
M53 N23 tmp12592 Vdd Vdd PMOS
M54 N23 tmp12592 Vdd Vdd PMOS
M56 N25 tmp12592 0 0 NMOS
M55 N23 tmp12592 N25 0 NMOS
M57 N24 tmp12594 Vdd Vdd PMOS
M58 N24 tmp12594 Vdd Vdd PMOS
M60 N26 tmp12594 0 0 NMOS
M59 N24 tmp12594 N26 0 NMOS
M61 cout N24 Vdd Vdd PMOS
M62 cout N23 Vdd Vdd PMOS
M64 N27 N24 0 0 NMOS
M63 cout N23 N27 0 NMOS
M65 N28 c Vdd Vdd PMOS
M66 N28 b Vdd Vdd PMOS
M68 N29 c 0 0 NMOS
M67 N28 b N29 0 NMOS
M69 tmp12594 N28 Vdd Vdd PMOS
M70 tmp12594 N28 Vdd Vdd PMOS
M72 N30 N28 0 0 NMOS
M71 tmp12594 N28 N30 0 NMOS
M73 N31 c Vdd Vdd PMOS
M74 N31 a Vdd Vdd PMOS
M76 N32 c 0 0 NMOS
M75 N31 a N32 0 NMOS
M77 tmp12593 N31 Vdd Vdd PMOS
M78 tmp12593 N31 Vdd Vdd PMOS
M80 N33 N31 0 0 NMOS
M79 tmp12593 N31 N33 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.tran 0 20 0 1ms
.backanno
.end
